US07868036B2
a) tert-Butyl {1-(1-hydroxy-2-piperidin-1-ylethyl)-3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methylpentyl}carbamate
A solution of 0.23 g of tert-butyl {3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methyl-1-oxiranylpentyl}carbamate in 4 ml of isopropanol and 0.99 ml of piperidine is stirred at 70° C. On completion of reaction (TLC monitoring), the reaction mixture is concentrated by evaporation, and the residue is admixed with water and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed successively with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60F).

reactant | tert-butyl {3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methyl-1-oxiranylpentyl}carbamate | 0.23 g | COCCOC=1C=CC=C2C=CC(=CC12)CC(CC(C1OC1)NC(OC(C)(C)C)=O)C(C)C | C27H39NO5
reactant | piperidine | 0.99 ml | N1CCCCC1 | C5H11N
solvent | isopropanol | 4 ml | C(C)(C)O | C3H8O
product | tert-Butyl {1-(1-hydroxy-2-piperidin-1-ylethyl)-3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methylpentyl}carbamate | OC(CN1CCCCC1)C(CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC)NC(OC(C)(C)C)=O | C32H50N2O5
